US05635529
A mixture of 1-(4-acetylaminobenzenesulfonyl)-4,4-dimethyl-1a,2,6,6a-tetrahydro-1H,4H-[1,3]-dioxepino[5,6-b]azirine (0.33 g), potassium hydroxide (0.14 g) and water (2.6 ml) was boiled with reflux for 60 minutes. The mixture was cooled to room temperature, acidified with diluted hydrochloric acid to pH 6.5 and evaporated to dryness at reduced pressure. The chromatography of the evaporation residue on a silica gel column by elution with a mixture of ethyl acetate/methanol (9.8:0.2) yielded trans-6-(4-acetylaminobenzene-sulfonamido)-2.2-dimethyl-1,3-dioxepane-5-ol, m.p. 203°-205° C./methylene chloride- methanol (9:1), and trans-6-sulfanylamido-2,2-dimethyl-1,3-dioxepane-5-ol.

reactant | 1-(4-acetylaminobenzenesulfonyl)-4,4-dimethyl-1a,2,6,6a-tetrahydro-1H,4H-[1,3]-dioxepino[5,6-b]azirine | 0.33 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N1C2C1COC(OC2)(C)C | C15H20N2O5S
reactant | potassium hydroxide | 0.14 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2.6 ml | O | H2O
product | trans-6-(4-acetylaminobenzene-sulfonamido)-2.2-dimethyl-1,3-dioxepane-5-ol | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](COC(OC1)(C)C)O | C15H22N2O6S
